US04455366
Synthesis of 6-(α-methacrylamidoacetamido)-2,4-dichloro-3-methylphenol [Monomer Coupler 2)]
To mixture composed of 68 g (0.48 mol) of N-methacryloyl glycine obtained in the above described manner and 46 g (0.2 mol) of 6-amino-2,4-dichloro-3-methylphenol hydrochloride were added 114 ml (1.44 mol) of pyridine and 1 liter of ethyl acetate and stirred under cooling. To the solution was added dropwise 29 ml (0.4 mol) of thionyl chloride. After the completion of the reaction, 300 ml of water was added to the reaction solution and extracted with ethyl acetate. The ethyl acetate solution was concentrated and to the residue was added acetonitrile. The crystals thus deposited were collected and recrystallized from acetonitrile to obtain 34.8 g of Monomer Coupler (2).

reactant | N-methacryloyl glycine | 0.48 mol, 68 g | C(C(=C)C)(=O)NCC(=O)O | C6H9NO3
reactant | 6-amino-2,4-dichloro-3-methylphenol hydrochloride | 0.2 mol, 46 g | Cl.NC1=CC(=C(C(=C1O)Cl)C)Cl
reactant | pyridine | 1.44 mol, 114 ml | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 0.4 mol, 29 ml | S(=O)(Cl)Cl | Cl2OS
solvent | water | 300 ml | O | H2O
solvent | ethyl acetate | 1 liter | C(C)(=O)OCC | C4H8O2
product | 6-(α-methacrylamidoacetamido)-2,4-dichloro-3-methylphenol | 34.8 g | C(C(=C)C)(=O)NCC(=O)NC1=CC(=C(C(=C1O)Cl)C)Cl | C13H14Cl2N2O3
